US07368479B2
A solution of 1-(tetrahydro-pyran-2-yloxy)-propan-2-one (126.6 g, 0.8 mol), ammonium chloride (65.8 g, 1.23 mol) and sodium cyanide (45.5 g, 0.92 mol) in a solution of aqueous ammonia (920 ml, 28%) is stirred vigorously at room temperature for 5 hours. The aqueous phase is extracted repeatedly with ethyl acetate. The collected organic extracts are dried and the solvent is evaporated under reduced pressure to give the 2-amino-2-methyl-3-(tetrahydro-pyran-2-yloxy)-propionitrile (130 g, 88.2%) as a liquid.

reactant | 1-(tetrahydro-pyran-2-yloxy)-propan-2-one | 0.8 mol, 126.6 g | O1C(CCCC1)OCC(C)=O | C8H14O3
reactant | ammonium chloride | 1.23 mol, 65.8 g | [Cl-].[NH4+]
reactant | sodium cyanide | 0.92 mol, 45.5 g | [C-]#N.[Na+]
solvent | ammonia | 920 ml | N | H3N
product | 2-amino-2-methyl-3-(tetrahydro-pyran-2-yloxy)-propionitrile | 130 g, 88.2% | NC(C#N)(COC1OCCCC1)C | C9H16N2O2
